US06573270B1
N-[3-(2-acetoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-pyridine-2-sulfonamide
To 2-{[5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate (Preparation 5) (750 mg) in dry pyridine (5 ml) at room temperature was added pyridine-2-sulphonyl chloride (748 mg), the mixture was stirred for 72 hours. The reaction was concentrated under reduced pressure and the residue re-evaporated from toluene. The residue was then partitioned between ethyl acetate (20 ml) and water (20 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield the title compound as a yellow solid.

reactant | 2-{[5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 750 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N)C | C15H19N3O3
reactant | pyridine-2-sulphonyl chloride | 748 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(2-acetoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-pyridine-2-sulfonamide | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)NS(=O)(=O)C1=NC=CC=C1)C | C20H22N4O5S
